US06313115B1
A 5-L flask was charged with ethyl acetate (2.3 L) and carbonyl diimidazole (500.0 g, 2.48 mol) to which 4-chloro-3-nitrobenzoic acid (402.5 g, 2.48 mol) was added in portions over 1 hour. The solution was stirred for an additional 1.5 hours. Piperidine (222.2 g, 2.60 mol) was added dropwise over 2 hours and the resulting solution was stirred for an additional 4 hours. The reaction mixture was washed sequentially, twice with 6N HCl solution (600 mL), twice with saturated NaHCO3 (250 mL), and finally with saturated NaCl (250 mL). The organic solution was dried over anhydrous Na2SO4 and filtered, and the solvent was removed in vacuo to yield 646 g (97%) of 4-chloro-3-nitrobenzoyl-piperidine as a yellow crystalline solid with m.p. =76—78 ° C. IR: 1633, 1535, and 1440 cm31 1. 1H NMR (500 MHz, CDCl3): δ 7.92 (1H, d, J 1.5 Hz), 7.60 (1H, d, J=8.1 Hz), 7.56 (1H, dd, J═8.1 and 1.5 Hz), 3.70 (2H, br s), 3.35 (2H, br s), 1.70 (4H, br s), and 1.56 ppm (2H, br s).

reactant | carbonyl diimidazole | 2.48 mol, 500.0 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-chloro-3-nitrobenzoic acid | 2.48 mol, 402.5 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Piperidine | 2.60 mol, 222.2 g | N1CCCCC1 | C5H11N
solvent | ethyl acetate | 2.3 L | C(C)(=O)OCC | C4H8O2
product | 4-chloro-3-nitrobenzoyl-piperidine | 646 g, 97% | ClC1=C(C=C(C(=O)N2CCCCC2)C=C1)[N+](=O)[O-] | C12H13ClN2O3
